US07678801B2
31f) N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide hydrochloride
Added IPA (5 mL) to N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide (196.5 mg) and heated to about 60° C. Added hydrochloric acid (1.1 eq; 1M in water), and solution mostly clarified. After a few minutes at about 60° C., crystallization had already begun, then cooled to RT. Stirred for about 3 hrs at rt, then filtered, washed with IPA, and dried to provide the title compound (160.9 mg).

reactant | N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide | 196.5 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)NC2CC(NC(C2)(C)C)(C)C)=O | C34H34F2N6O2S
reactant | hydrochloric acid | 1M, 1.1 eq | Cl | ClH
solvent | IPA | 5 mL | CC(C)O | C3H8O
product | N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide hydrochloride | 160.9 mg | Cl.FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)NC2CC(NC(C2)(C)C)(C)C)=O | InChI=1S/C34H34F2N6O2S.ClH/c1-19-9-10-21(37-31(44)20-13-14-45-18-20)15-24(19)28-23-11-12-27(43)42(29-25(35)7-6-8-26(29)36)30(23)40-32(39-28)38-22-16-33(2,3)41-34(4,5)17-22;/h6-15,18,22,41H,16-17H2,1-5H3,(H,37,44)(H,38,39,40);1H
